US07786132B2
1-(2-(4-(5-Bromothiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
A mixture of 4-(5-bromothiophen-2-yl)-2-chloropyrimidine (1.0 g, 3.63 mmol), 1-(2-aminoethyl)imidazolidin-2-one (0.47 g, 3.63 mmol) and triethylame (0.44 g, 4.36 mmol) in isopropanol (25 mL) was refluxed for 30 h. After cooling down to rt the precipitate was filtered and washed with methanol (5 mL) and dried to give the title compound as a yellow solid (0.9 g, 68%). MS (M+H)+ 368/370.

reactant | 4-(5-bromothiophen-2-yl)-2-chloropyrimidine | 3.63 mmol, 1.0 g | BrC1=CC=C(S1)C1=NC(=NC=C1)Cl | C8H4BrClN2S
reactant | 1-(2-aminoethyl)imidazolidin-2-one | 3.63 mmol, 0.47 g | NCCN1C(NCC1)=O | C5H11N3O
solvent | isopropanol | 25 mL | C(C)(C)O | C3H8O
product | 1-(2-(4-(5-Bromothiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | 0.9 g, 68% | BrC1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NCC1)=O | C13H14BrN5OS
